US05739132
In 55 ml of water were dissolved 2.45 g of 2-n-butylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane and 1.40 g of sodium hydroxide, and 2.66 g of sodium 3-nitrobenzenesulfonate was added thereto. The mixture was refluxed under heating for 5 hours. After cooling, the reaction mixture was made acidic with 10% hydrochloric acid and extracted with ethyl acetate, the extract was dried, and then the solvent was removed. The resulting crystals were recrystallized from methanol to obtain 1.62 g of 2-n-butylsulfonylamino-5-[pyridazin-3(2H)-on-6-yl]-indane.

reactant | 2-n-butylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 2.45 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C17H23N3O3S
reactant | sodium hydroxide | 1.40 g | [OH-].[Na+]
reactant | sodium 3-nitrobenzenesulfonate | 2.66 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 55 ml | O | H2O
product | 2-n-butylsulfonylamino-5-[pyridazin-3(2H)-on-6-yl]-indane | 1.62 g | C(CCC)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C17H21N3O3S
